US06617339B1
3-(4-((3S)-3-Hydroxyacetylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
Using essentially the technique of Example 74, starting from 3-(4-((3S)-3-acetoxyacetylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one (140 mg, 0.3 mmol) gave the desired product (125 mg) after trituration with water, diethyl ether and drying.

reactant | 3-(4-((3S)-3-acetoxyacetylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one | 0.3 mmol, 140 mg | C(C)(=O)OCC(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C21H23FN4O7
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-((3S)-3-Hydroxyacetylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 125 mg | OCC(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C19H21FN4O6
